US04065620
tert-butyl 3-(2'-tert-butoxycarbonylvinyl)-7-(2'-tert-butoxycarbonyl-2'-phenylacetamido)-3-cephem-4-carboxylate
To a cooled (0°-5° C.) suspension of 277 mg. (0.5 mmole) of tert-butyl 7-amino-3-(2'-tert-butoxycarbonylvinyl)-3-cephem-4-carboxylate-p-toluenesulfonate and 420 mg. (5 equivalents) of sodium bicarbonate in 20 cc. of dry acetone there was added about 1 mmole of tert-butyl phenylmalonic acid chloride (prepared from tert-butyl phenyl malonic acid in benzene plus oxalyl chloride and a trace of dimethylformamide [DMF] in acetone). After 10 minutes at 0°-5° C. and one and one-half hours at room temperature, the reaction mixture was re-cooled to 0° C. to 5° C. and a few drops of water was added. After ten minutes this minute was evaporated under reduced pressure to dryness, the residue was taken up in ethyl acetate, the ethyl acetate solution was washed twice with cold 5 percent hydrochloric acid, with saturated aqueous sodium bicarbonate solution, with saturated aqueous sodium chloride solution, and then dried over magnesium sulfate, filtered and evaporated under reduced pressure. The oily tert-butyl 3-(2'-tert-butoxycarbonylvinyl)-7-(2'-tert-butoxycarbonyl-2'-phenylacetamido)-3-cephem-4-carboxylate ester was chromatographed over silica gel 15 percent water and eluted with 2 percent ethyl acetate in benzene. This title ester material crystallized from ethyl ether in the cold, m.p. 168°-170° C. and was characterized by IR, UV [λmax = 317 inμ (ε = 23,000)] and by elemental analysis which follows.

reactant | tert-butyl 7-amino-3-(2'-tert-butoxycarbonylvinyl)-3-cephem-4-carboxylate p-toluenesulfonate | 0.5 mmole | NC1[C@@H]2N(C(=C(CS2)C=CC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C1=O.CC=1C=CC(=CC1)S(=O)(=O)O
reactant | sodium bicarbonate | 5 equivalents | C([O-])(O)=O.[Na+]
reactant | tert-butyl phenylmalonic acid chloride | about 1 mmole | C(C)(C)(C)C(C(=O)Cl)(C(=O)Cl)C1=CC=CC=C1 | C13H14Cl2O2
reactant | tert-butyl phenyl malonic acid | C(C)(C)(C)C(C(=O)O)(C(=O)O)C1=CC=CC=C1 | C13H16O4
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | acetone | CC(=O)C | C3H6O
catalyst | water | a few drops | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | tert-butyl 3-(2'-tert-butoxycarbonylvinyl)-7-(2'-tert-butoxycarbonyl-2'-phenylacetamido)-3-cephem-4-carboxylate | C(C)(C)(C)OC(=O)C=CC=1CS[C@H]2N(C1C(=O)OC(C)(C)C)C(C2NC(C(C2=CC=CC=C2)C(=O)OC(C)(C)C)=O)=O | C31H40N2O8S
